US05401756
c) Preparation of 6-(4-chlorophenoxy)-3-(3-pyridylmethyl)-1,2,3-benzotriazin-4 (3H)-one
A mixture of 10.0 g of 6-bromo-3-(3-pyridylmethyl)-1,2,3-benzotriazin-4 (3H)-one, 6.1 g of 4-chlorophenol, 9.4 g of cupric oxide, 13.1 g of potassium carbonate and 100 ml of pyridine was refluxed under heating for 9 hours. After finishing the reaction, the insoluble material was filtered off, and the filtrate was concentrated in vacuo. The resulting residue was chromatographed on a column of silica gel, developing with ethyl acetate/hexane=1:1 and then recrystallized from hexane-methylene chloride to give 5.68 g of the titled compound.

reactant | 6-bromo-3-(3-pyridylmethyl)-1,2,3-benzotriazin-4 (3H)-one | 10.0 g | BrC=1C=CC2=C(C(N(N=N2)CC=2C=NC=CC2)=O)C1 | C13H9BrN4O
reactant | 4-chlorophenol | 6.1 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | potassium carbonate | 13.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 6-(4-chlorophenoxy)-3-(3-pyridylmethyl)-1,2,3-benzotriazin-4 (3H)-one | 5.68 g | ClC1=CC=C(OC=2C=CC3=C(C(N(N=N3)CC=3C=NC=CC3)=O)C2)C=C1 | C19H13ClN4O2
